US04638012
A. 2-[(4-Phenylbenzoyl)amino]acetic acid
Glycine (5 mmol) was reacted with 4-biphenylcarbonyl chloride (about 5 mmol) in the presence of 1N NaOH solution (10 ml), ether (21 ml) and THF (2 ml) using the procedure described in Example 5. Most of the product precipitated as a solid on acidification of the aqueous layer during the work up. This was found to be quite insoluble in CHCl3 and EtOAc. It was largely dissolved in CH3CN (~35 ml) and filtered to remove insoluble material. Crystalline acid (0.81 g, 63%) was deposited on cooling, m.p. 207°-218° C. decomp.

reactant | Glycine | 5 mmol | NCC(=O)O | C2H5NO2
reactant | 4-biphenylcarbonyl chloride | about 5 mmol | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | NaOH | 1N, 10 ml | [OH-].[Na+]
reactant | ether | 21 ml | CCOCC | C4H10O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-[(4-Phenylbenzoyl)amino]acetic acid | C1(=CC=CC=C1)C1=CC=C(C(=O)NCC(=O)O)C=C1 | C15H13NO3
